US07714004B2
Preparation of 1-(2-chloro-5-methyl-4-pyrimidinyl)-4-piperidinol
To a solution of 2,4-dichloro-5-methylpyrimidine (5.0 g, 30.7 mmol) in EtOH (100 mL) were added 4-piperidinol (3.1 g, 30.7 mmol) and Na2CO3 (16.3 g, 153.4 mmol). The reaction mixture was stirred at rt for 72 h, after which the reaction mixture was filtered through Celite®. The filtrate was then concentrated under reduced pressure, the residue dissolved in EtOAc, and the organic solution washed with water and brine after which it was dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was then purified by silica gel flash chromatography (1:1 EtOAc/hexanes to 100% EtOAc) to give the product (4.8 g, 90%) as a white waxy solid. 1H NMR (400 MHz, CDCl3) δ 1.62-1.70 (m, 2H), 1.70 (d, 1H), 1.98-2.03 (m, 2H), 2.21 (s, 3H), 3.22-3.28 (m, 2H), 3.87-3.92 (m, 2H), 3.97-3.98 (m, 1H), 7.92 (s, 1H).

reactant | 2,4-dichloro-5-methylpyrimidine | 30.7 mmol, 5.0 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | 4-piperidinol | 30.7 mmol, 3.1 g | N1CCC(CC1)O | C5H11NO
reactant | Na2CO3 | 153.4 mmol, 16.3 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | 1-(2-chloro-5-methyl-4-pyrimidinyl)-4-piperidinol | 4.8 g, 90% | ClC1=NC=C(C(=N1)N1CCC(CC1)O)C | C10H14ClN3O
